US07589205B2
H2. 3,4-Dimethoxyphenylacetylene
According to the General Procedure E, 2,2-dibromo-1-(3,4-dimethoxyphenyl)ethene (4.00 g, 12.40 mmol) and n-BuLi (17.11 ml, 27.28 mmol) are converted to give after workup and chromatography (SiO2, PE/EE=1:1, Rf=0.51) the title compound (1.70 g, 10.48 mmol, 85%) as a colorless solid, m.p. 71-72° C.;

reactant | 2,2-dibromo-1-(3,4-dimethoxyphenyl)ethene | 12.40 mmol, 4.00 g | BrC(=CC1=CC(=C(C=C1)OC)OC)Br | C10H10Br2O2
reactant | n-BuLi | 27.28 mmol, 17.11 ml | [Li]CCCC
product | 3,4-Dimethoxyphenylacetylene | 10.48 mmol, 1.70 g, 85% | COC=1C=C(C=CC1OC)C#C | C10H10O2
